US05532248
17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2-benzyloxyethoxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2-hydroxyethoxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (41.7 mg in 0.6 ml 33% methylene chloride in cyclohexane), benzyl trichloroacetimidate (15.8 μl neat) was added and the reagents allowed to mix for 5 minutes. Trifluoromethanesulfonic acid (2 μl neat) was added slowly via syringe and the mixture stirred at room temperature. After 7 hours the reaction was quenched by the addition of saturated sodium bicarbonate and extracted with ethyl acetate (3×5 ml). The combined organics were washed with brine and dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (ethyl acetate:hexane (1:3)+1% methanol) gave the title compound (24 mg). (1H NMR was consistent with the desired structure).

reactant | 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2-hydroxyethoxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.6 ml, 41.7 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCCO)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C51H87NO13Si
reactant | benzyl trichloroacetimidate | 15.8 μl | ClC(C(OCC1=CC=CC=C1)=N)(Cl)Cl | C9H8Cl3NO
reactant | Trifluoromethanesulfonic acid | 2 μl | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2-benzyloxyethoxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 24 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCCOCC2=CC=CC=C2)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C58H93NO13Si
